US09388143B2
Synthesis of (N-(3-((2-chloro-5-methoxyphenyl)amino)quinoxalin-2-yl)-3-nitrobenzenesulfonamide)
Prepare a solution with 0.585 kg of 2-chloro-5-methoxyaniline-HCl, 3.5 volumes of acetonitrile and 0.46 kg of DBU. (solution A) Mix 1 kg of N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide and 5.5 volumes of acetonitrile. Heat to reflux. Add solution A and 1 volume of acetonitrile onto the reaction mixture. After completion of the reaction at reflux, cool down at 20° C., dilute with 10 volumes of methanol and filter. Wash the cake 3 times with 5 volumes of methanol and dry it under vacuum.

reactant | 2-chloro-5-methoxyaniline-HCl | 0.585 kg | Cl.ClC1=C(N)C=C(C=C1)OC
reactant | acetonitrile | C(C)#N | C2H3N
reactant | DBU | 0.46 kg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide | 1 kg | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H9ClN4O4S
solvent | methanol | CO | CH4O
product | N-(3-((2-chloro-5-methoxyphenyl)amino)quinoxalin-2-yl)-3-nitrobenzenesulfonamide | ClC1=C(C=C(C=C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C21H16ClN5O5S
